US07129239B2
Preparation of Intermediate 2,4-Dichloro-N-[4-chloro-6-(4-chlorophenyl-amino)-pyrimidin-5-yl]-benzamide (I-(1A-1)b)
6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine I-(1A-1)a (34 g, 134 mmol) in pyridine (150 ml) was cooled to 0° C. and to it was added 2,4-dichlorobenzoyl chloride (25 ml, 178 mmol). The reaction was allowed to warm to ambient temperature overnight. The solid precipitate was collected by vacuum filtration and dried under high vacuum to yield the title compound I-(1A-1)b as a colorless solid (14 g, 25%). The pyridine solution was concentrated under reduced pressure and then triturated with methanol (500 ml) to provide additional material (35 g, 60%): +ESI MS (M+1) 427.4; 1H NMR: (400 MHz, DMSO-d6): δ 10.08 (s, 1H), 9.16 (s, 1H), 8.38 (s, 1H), 7.97 (d, J=8.7 Hz, 1H), 7.75 (d, J=2.0 Hz, 2H), 7.64–7.60 (m, 3H), 7.40 (d, J=8.7 Hz, 2H).

reactant | 6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)Cl)N | C10H8Cl2N4
reactant | 2,4-dichlorobenzoyl chloride | 178 mmol, 25 ml | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-Dichloro-N-[4-chloro-6-(4-chlorophenyl-amino)-pyrimidin-5-yl]-benzamide | ClC1=C(C(=O)NC=2C(=NC=NC2NC2=CC=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C17H10Cl4N4O
